US07115740B2
A solution of ethyl 4-chloro-2-methylthio-5-pyrimidinecarboxylate (897 mg, 3.86 mmol) (Aldrich) and triethylamine (1.2 mL, 870 mg, 8.49 mmol) (Aldrich) in dioxane (20 mL) was treated with (R)-3-aminotetrahydrofuran p-toluene-sulfonic acid salt (1.0 g, 3.86 mmol) (Fluka). The mixture was stirred at reflux for 1 hour, then cooled and partitioned between brine and ethyl acetate. The organic layer was dried over sodium sulfate, filtered, concentrated and the residue was purified by chromatography with a silica gel column using a 0–100% ethyl acetate in hexanes gradient to give (R)-2-methylsulfanyl-4-(tetrahydrofuran-3-ylamino)-pyrimidine-5-carboxylic acid ethyl ester as a colorless viscous oil. (Yield 1.0 g, 92%).

reactant | ethyl 4-chloro-2-methylthio-5-pyrimidinecarboxylate | 3.86 mmol, 897 mg | ClC1=NC(=NC=C1C(=O)OCC)SC | C8H9ClN2O2S
reactant | triethylamine | 8.49 mmol, 1.2 mL, 870 mg | C(C)N(CC)CC | C6H15N
reactant | (R)-3-aminotetrahydrofuran p-toluene-sulfonic acid salt | 3.86 mmol, 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.N[C@H]1COCC1
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (R)-2-methylsulfanyl-4-(tetrahydrofuran-3-ylamino)-pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=NC1)SC)N[C@H]1COCC1 | C12H17N3O3S
